US07652051B2
Synthesis of methyl 4-[(2,6-diaminopyrimidin-4-yl)oxy]benzoate
Methyl 4-hydroxybenzoate (1.52 g, 10.0 mmol) was dissolved in 18 mL of anhydrous dioxane in 10-20 mL microwave vial (Personal Chemistry) and solid Cs2CO3 was added to this solution. The suspension was stirred at ambient temperature for 10 min, then 4-chloro-2,6-diaminopyrimidine (1.45 g, 10.0 mmol) was added. The vial was capped and microwaved at 200° C. for 40 min. Then MeOH was added to dissolve the formed suspension to produce a clear amber solution. The solution was transferred into a round-bottom flask and concentrated down to ca. 20 mL. This solution was purified by silica gel chromatography using 100% ethyl acetate as eluent. The product was additionally re-crystallized from ca. 50 mL of 4:1 mixture of EtOAc/MeOH. The product was filtered, washed with 40 mL of EtOAc, 40 mL of anhydrous Et2O and dried in vacuo to give the title product as a white solid (0.812 g). Yield 31.2%.

reactant | Methyl 4-hydroxybenzoate | 10.0 mmol, 1.52 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 4-chloro-2,6-diaminopyrimidine | 10.0 mmol, 1.45 g | ClC1=NC(=NC(=C1)N)N | C4H5ClN4
reactant | MeOH | CO | CH4O
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
product | methyl 4-[(2,6-diaminopyrimidin-4-yl)oxy]benzoate | 0.812 g, Yield 31.2% | NC1=NC(=CC(=N1)OC1=CC=C(C(=O)OC)C=C1)N | C12H12N4O3
